US03970668
Preparation of Methyl 1-{5-[2-(methoxycarbonylamino)-1-benzimidazolylcarbonylamino]-1,3,3-trimethylcyclohexylmethylcarbamoyl}-2-benzimidazolecarbamate
To a stirred mixture of methyl 2-benzimidazolecarbamate (19.1 parts) and triethylenediamine (0.1 part) in chloroform (300 parts) was slowly added 5-isocyanato-1-(isocyanatomethyl)-1,3,3-trimethylcyclohexane (11.1 parts). The reaction mixture was stirred at room temperature overnight, filtered and the solvent removed from the filtrate under reduced pressure. The residue from the filtrate was triturated with hexane and the product methyl 1-{5-[2-(methoxycarbonylamino)-1-benzimidazolylcarbonylamino]-1,3,3-trimethylcyclohexylmethylcarbamoyl}-2- benzimidazolecarbamate (28.5 parts) was collected by filtration. It exhibited a melting point of 82°-83°C.

reactant | methyl 2-benzimidazolecarbamate | N1=C(NC2=C1C=CC=C2)NC(=O)OC | C9H9N3O2
reactant | triethylenediamine | C1CN2CCN1CC2 | C6H12N2
reactant | 5-isocyanato-1-(isocyanatomethyl)-1,3,3-trimethylcyclohexane | N(=C=O)C1CC(CC(C1)(C)CN=C=O)(C)C | C12H18N2O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl 1-{5-[2-(methoxycarbonylamino)-1-benzimidazolylcarbonylamino]-1,3,3-trimethylcyclohexylmethylcarbamoyl}-2-benzimidazolecarbamate | COC(=O)NC1=NC2=C(N1C(=O)NC1CC(CC(C1)(C)CNC(=O)N1C(=NC3=C1C=CC=C3)NC(=O)OC)(C)C)C=CC=C2 | C30H36N8O6
